US07192982B2
A 1N aqueous lithium hydroxide solution was added to a solution of 3-(4-hydroxy-3-methoxy-phenyl)-2-methoxy-propionic acid methyl ester (280 mg, 1.17 mmol) in THF at room temperature, and the reaction mixture stirred overnight. The aqueous phase was extracted with ethyl acetate (20 mL), acidified to pH 2, and extracted with ethyl acetate (3×15 mL). The later organic layers were combined and washed with water (15 mL) and brine (10 mL), dried (MgSO4), filtered, and concentrated under vacuum to produce 3-(4-hydroxy-3-methoxy-phenyl)-2-methoxy-propionic acid as an oil (183 mg, 74%). 1H-NMR (250.13 MHz, CDCl3): δ 6.83 (1H, d, J=7.8), 6.74 (1H, s), 6.72 (1H, d, J=7.8), 3.99 (1H dd, J=7.8, 4.0), 3.85 (s, 3H), 3.40 (s, 3H), 3.09 (1H, dd, J=14.2, 4.0), 2.91 (1H dd, J=14.2, 7.8).

reactant | lithium hydroxide | 1N | [OH-].[Li+]
reactant | 3-(4-hydroxy-3-methoxy-phenyl)-2-methoxy-propionic acid methyl ester | 1.17 mmol, 280 mg | COC(C(CC1=CC(=C(C=C1)O)OC)OC)=O | C12H16O5
solvent | THF | C1CCOC1 | C4H8O
product | 3-(4-hydroxy-3-methoxy-phenyl)-2-methoxy-propionic acid | 183 mg, 74% | OC1=C(C=C(C=C1)CC(C(=O)O)OC)OC | C11H14O5
